### PR TITLE
Fingroup on to of monoid

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

This changes the hierarchy in `fingroup.v` so that it relies on the one in `monoid.v`.

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

File: algebra/zmodp.v [hunk 1]
```diff
@@ -151,6 +151,7 @@ Qed.
 HB.instance Definition _ :=
   GRing.isZmodule.Build 'I_p (@Zp_addA _) (@Zp_addC _) Zp_add0z Zp_addNz.
 
+(* FIXME: This will break when we make rings depend on monoids. *)
 HB.instance Definition _ := [finGroupMixin of 'I_p for +%R].
```
Comment (CohenCyril) [inline algebra/zmodp.v:155]: Could we try to omit such an instance and  use [`to_multiplicative`](https://github.com/math-comp/math-comp/blob/18c374d010b52e6295389d74a4245d7f3bfbb40e/boot/nmodule.v#L176) and see what happens?

File: fingroup/fingroup.v [hunk 2]
```diff
@@ -183,410 +179,207 @@ Reserved Notation "[ 'min' A 'of' G | gP & gQ ]"
...
+Notation oneg := one (only parsing).
+#[deprecated(since="mathcomp 2.5.0",
+             note="Use Algebra.mul instead.")]
+Notation mulg := mul (only parsing).
+#[deprecated(since="mathcomp 2.5.0",
+             note="Use Algebra.inv instead.")]
+Notation invg := inv (only parsing).
+#[deprecated(since="mathcomp 2.5.0",
+             note="Use Algebra.natexp instead.")]
+Notation expgn := natexp (only parsing).
```
Comment (CohenCyril) [inline fingroup/fingroup.v:247]: Should we take this opportunity to rename `natexp` into `natpow` ? (This would free the name `exp` for the actual exponential)

File: algebra/finalg.v [hunk 3]
```diff
@@ -322,21 +322,21 @@ Notation unit R Ux := (@Unit R%type _ Ux).
 #[export, non_forgetful_inheritance]
 HB.instance Definition _ (R : ComUnitRing.type) := [finGroupMixin of R for +%R].
```
Comment (CohenCyril) [inline algebra/finalg.v:323]: Same here: could we try to omit such an instance and use [to_multiplicative](https://github.com/math-comp/math-comp/blob/18c374d010b52e6295389d74a4245d7f3bfbb40e/boot/nmodule.v#L176) and see what happens?

File: algebra/finalg.v [hunk 4]
```diff
@@ -322,21 +322,21 @@ Notation unit R Ux := (@Unit R%type _ Ux).
...
 Coercion ComUnitRing_to_baseFinGroup (R : ComUnitRing.type) :=
-  BaseFinGroup.clone R _.
+  FinStarMonoid.clone R _.
 Coercion ComUnitRing_to_finGroup (R : ComUnitRing.type) :=
   FinGroup.clone R _.
 
 #[export, non_forgetful_inheritance]
 HB.instance Definition _ (R : IntegralDomain.type) :=
   [finGroupMixin of R for +%R].
```
Comment (CohenCyril) [inline algebra/finalg.v:331]: Same here: could we try to omit such an instance and use [to_multiplicative](https://github.com/math-comp/math-comp/blob/18c374d010b52e6295389d74a4245d7f3bfbb40e/boot/nmodule.v#L176) and see what happens?

File: algebra/finalg.v [hunk 5]
```diff
@@ -322,21 +322,21 @@ Notation unit R Ux := (@Unit R%type _ Ux).
...
 Coercion IntegralDomain_to_baseFinGroup (R : IntegralDomain.type) :=
-  BaseFinGroup.clone R _.
+  FinStarMonoid.clone R _.
 Coercion IntegralDomain_to_finGroup (R : IntegralDomain.type) :=
   FinGroup.clone R _.
 
 #[export, non_forgetful_inheritance]
 HB.instance Definition _ (R : Field.type) := [finGroupMixin of R for +%R].
```
Comment (CohenCyril) [inline algebra/finalg.v:338]: Same here: could we try to omit such an instance and use [to_multiplicative](https://github.com/math-comp/math-comp/blob/18c374d010b52e6295389d74a4245d7f3bfbb40e/boot/nmodule.v#L176) and see what happens?

File: algebra/finalg.v [hunk 6]
```diff
@@ -375,7 +375,7 @@ HB.instance Definition _ (R : nzRingType) (M : Lmodule.type R) :=
   [finGroupMixin of M for +%R].
```
Comment (CohenCyril) [inline algebra/finalg.v:375]: Same here: could we try to omit such an instance and use [to_multiplicative](https://github.com/math-comp/math-comp/blob/18c374d010b52e6295389d74a4245d7f3bfbb40e/boot/nmodule.v#L176) and see what happens?

File: algebra/zmodp.v (hunk 1 above)
Comment (Tragicus) [reply algebra/zmodp.v:155]: Done, see https://github.com/math-comp/math-comp/commit/f2160f221a89512d630ee626fbecc14233cdf849 but I expect a lot of breakage, so it might be better to postpone.

Comment (Tragicus) [reply algebra/zmodp.v:155]: Bingo, can we postpone?

**Comment by Tragicus** [comment]
I am afraid I still need the exact same `odd-order` overlay...

File: fingroup/fingroup.v (hunk 2 above)
Comment (Tragicus) [reply fingroup/fingroup.v:247]: Let us discuss this during a MC meeting.

**Comment by proux01** [comment]
All overlays merged an CI green but I didn't review the PR, what's the status? I guess it would at least benefit from some squashing?

File: boot/monoid.v [hunk 7]
```diff
@@ -193,6 +193,8 @@ End ClosedPredicates.
 
 End MagmaTheory.
 
+Prenex Implicits commute.
```
Comment (proux01) [inline boot/monoid.v:199]: I have no idea what this is doing

File: boot/monoid.v [hunk 8]
```diff
@@ -446,14 +446,129 @@ HB.structure Definition BaseGroup := {G of hasInv G & BaseUMagma G}.
...
+HB.end.
+
+Section StarMonoidTheory.
+Variable G : starMonoidType.
+Implicit Types x y z : G.
+
+Lemma invg_inj : injective (@inv G). Proof. exact: can_inj invgK. Qed.
+
+Lemma invg1 : 1^-1 = 1 :> G.
+Proof. by apply: invg_inj; rewrite -{1}[1^-1]mul1g invgM invgK mul1g. Qed.
```
Comment (proux01) [inline boot/monoid.v]: maybe
```suggestion
Lemma invg1 : 1^-1 = 1 :> G.
Proof. by apply: invg_inj; rewrite -[1^-1 in LHS]mul1g invgM invgK mul1g. Qed.
```
to avoid the occurence number selector

File: fingroup/fingroup.v [hunk 9]
```diff
@@ -139,13 +137,11 @@ Declare Scope Group_scope.
 
 Delimit Scope Group_scope with G.
 
-(* This module can be imported to open the scope for group element *)
-(* operations locally to a file, without exporting the Open to     *)
-(* clients of that file (as Open would do).                        *)
+(* FIXME: Do we have a way to deprecate this? *)
```
Comment (proux01) [inline fingroup/fingroup.v]: Unfortunately not

File: fingroup/fingroup.v [hunk 10]
```diff
@@ -1414,7 +1228,8 @@ Proof. by move=> G_P; elim/big_ind: _ => //; apply: groupM. Qed.
 
 (* Inverse is an anti-morphism. *)
 
-Lemma invGid : G^-1 = G. Proof. by apply/setP=> x; rewrite inE groupV. Qed.
+Lemma invGid : G^-1 = G.
+Proof. by apply/setP=> x; rewrite inE groupV. Qed.
```
Comment (proux01) [inline fingroup/fingroup.v]: ?

File: solvable/alt.v [hunk 11]
```diff
@@ -532,7 +533,7 @@ have [g fK gK] : bijective f.
   have : (c ^+ (j - i)%R)%g \in stabx.
     by rewrite !inE ?groupX ?mem_gen ?sub1set ?inE// ['P%act _ _]cjix eqxx.
   rewrite [stabx]perm_prime_astab// => /set1gP.
-  move=> /(congr1 (mulg (c ^+ i))); rewrite -expgD_Zp// addrC addrNK mulg1.
+  move=> /(congr1 ( *%g (c ^+ i))); rewrite -expgD_Zp// addrC addrNK mulg1.
```
Comment (proux01) [inline solvable/alt.v:536]: maybe
```suggestion
  move=> /(congr1 (mul (c ^+ i))); rewrite -expgD_Zp// addrC addrNK mulg1.
```

File: solvable/finmodule.v [hunk 12]
```diff
@@ -47,7 +47,8 @@ Set Implicit Arguments.
 Unset Strict Implicit.
 Unset Printing Implicit Defensive.
 
-Import GroupScope GRing.Theory FinRing.Theory.
+Local Open Scope group_scope.
+Import GRing.Theory FinRing.Theory.
```
Comment (proux01) [inline solvable/finmodule.v]:
```suggestion
Import GRing.Theory FinRing.Theory.
Local Open Scope group_scope.
```

File: character/integral_char.v [hunk 13]
```diff
@@ -35,7 +35,8 @@ Set Implicit Arguments.
 Unset Strict Implicit.
 Unset Printing Implicit Defensive.
 
-Import Order.TTheory GroupScope GRing.Theory Num.Theory.
+Local Open Scope group_scope.
+Import Order.TTheory GRing.Theory Num.Theory.
```
Comment (proux01) [inline character/integral_char.v]:
```suggestion
Import Order.TTheory GRing.Theory Num.Theory.
Local Open Scope group_scope.
```

File: field/galois.v [hunk 14]
```diff
@@ -41,7 +41,8 @@ Unset Printing Implicit Defensive.
 Reserved Notation "''Gal' ( A / B )"
   (A at level 35, format "''Gal' ( A  /  B )").
 
-Import GroupScope GRing.Theory.
+Local Open Scope group_scope.
+Import GRing.Theory.
```
Comment (proux01) [inline field/galois.v]:
```suggestion
Import GRing.Theory.
Local Open Scope group_scope.
```

**Review by proux01 — APPROVED** [review]
I had a quick look and this seems reasonnable to me, although I'm not an expert of fingroup. Once header doc, changelog and squashing is made, this could be merged I think.

File: boot/monoid.v (hunk 7 above)
Comment (Tragicus) [reply boot/monoid.v:199]: I am not too sure, but it was in `fingroup.v` so I kept it.

File: solvable/alt.v (hunk 11 above)
Comment (Tragicus) [reply solvable/alt.v:536]: I need `monoid.mul`, is that a problem?

Comment (proux01) [reply solvable/alt.v:536]: Ok, then it's probably better to keep `( *%g`

File: fingroup/fingroup.v (hunk 9 above)
Comment (proux01) [reply fingroup/fingroup.v]: We can deprecate "libraries" (that is .v files, with the `Attributes` command), abbreviations and various forms of definitions but AFAIK not modules.

**Comment by proux01** [comment]
The CI failure should be fixed by https://github.com/affeldt-aist/infotheo/pull/179 (my bad), I'd like to merge by the end of the week if there are no more comments.
